US07468371B2
N-(2-morpholin-4-ylethyl)pent-4-ynamide
To 4-pentynoic acid (981 mg, 10 mmol) was added anhydrous 1-hydroxybenzotriazole (8.11 g, 60 mmol), followed by addition of N,N-dimethylformamide (55 mL) and the mixture was stirred at room temperature until a yellow solution resulted. A solution of 4-(2-aminoethyl)-morpholine (1.31 g, 10.1 mmol) in N,N-dimethylformamide (10 mL) was added, followed by addition of triethylamine (8.35 mL, 60 mmol). After stirring for about 10 min, 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (6.73 g, 35 mmol) was added and stirring at room temperature was continued overnight. The reaction mixture was diluted with water and was extracted successively with diethyl ether, ethyl acetate, dichloromethane and chloroform/i-propanol (9:1). The combined organic extracts were dried (Na2SO4), filtered and concentrated under vacuum. The solid residue was purified by silica gel flash chromatography using dichloromethane/methanol (9:1) as eluent to provide Example 646. MS (DCI-NH3): m/z 211 (M+H)+.

reactant | 4-pentynoic acid | 10 mmol, 981 mg | C(CCC#C)(=O)O | C5H6O2
reactant | 1-hydroxybenzotriazole | 60 mmol, 8.11 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 4-(2-aminoethyl)-morpholine | 10.1 mmol, 1.31 g | NCCN1CCOCC1 | C6H14N2O
reactant | triethylamine | 60 mmol, 8.35 mL | C(C)N(CC)CC | C6H15N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 35 mmol, 6.73 g | Cl.CN(CCCN=C=NCC)C
reactant | NH3 | N | H3N
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 55 mL | CN(C=O)C | C3H7NO
product | N-(2-morpholin-4-ylethyl)pent-4-ynamide | N1(CCOCC1)CCNC(CCC#C)=O | C11H18N2O2
